Name:  ___                         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I didn't expect to be this serious... to be in the hospital"
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
This is a ___ year old ___ sophomore with no past medical 
or psychiatric history who presented BIBA from ___ 
___ after reporting SI to her therapist. Upon 
initial interview, Ms. ___ reports that she has had increasing 
stress and depression over the last 2 months in the setting of 
repeating her first year coursework in ___ at ___ 
___. She reports that she found school stressful last year, 
but feels like this year is much worse and she spends much of 
her time worrying about the pressure and anxiety. In the ED, she 
reports she was in the office of her therapist when she told her 
that she had been experiencing increasing thoughts of suicidal 
ideation that have been intensifying over the last two months. 
Ms. ___ reports that these thoughts have escalated to the point 
where today when she was cooking beef and watching the blood run 
down the drain she was thinking "If it was my blood, I wouldn't 
have to deal with anything". She denies plan or immediate 
intent, but stated that she believed she would be unsafe to 
return home and thought she was likely to have so much stress 
and anxiety that she would get to the point of attempting 
suicide. She describes profound social isolation with no close 
social supports and conflicted relationship with her parents 
though reports that she speaks with her mother every night. She 
describes frequent feelings of worthlessness and feeling "no 
good" for the past two months. She also notes significant guilt 
around missing her schoolwork and decreased energy. She denied 
changes in sleep, appetite and concentration and continues to 
enjoy watching videos and reading books. She has never had
pharmacologic treatment for depression and is willing to 
consider antidepressant therapy at this time. She notes interest 
in continuing to work with her outpatient therapist going 
forward.  
. 
She denies previous periods concerning for mania including 
denying periods of sleeplessness or elation, she denies AVH or 
delusions, she denies panic attacks, she denies past trauma, she 
denies disordered eating, she denies substance use including 
EtOH, illicit drugs, and tobacco.
. 
Collateral per EMS run report: ___ y/o female coming from the 
___ counseling ___. Pt reportedly went to see counselor 
after having suicidal ideas at home. Pt denies HI and use of 
drugs/alcohol. Pt denies any auditory or visual hallucinations. 
Pt transported to ___. 
. 
Collateral ___ (Director of counseling at 
___.  Patient prefers to be called ___. 
___ has reached out to ___ emergency contact, but has not 
been able to reach any social supports. She reports that Ms 
___ mother recently visited. In agreement with inpatient 
hospitalization for stabilization.
. 
In the ED, patient was in good behavioral control and did not 
require any medications or any chemical/physical restraints.
. 
On admission to the inpatient unit, patient described feeling 
"stressed" since the last year of high school (___), which 
she is attributing to the high self-imposed expectations of 
doing very well in school in order to earn money. In the 
beginning of the interview, she mentioned that she has been 
having "pressure from family", but later on denied, saying that 
her and her parents don't talk about her school performance or 
her struggles. She described that she started feeling much more 
stressed in ___, when she found out that she had failed 
her ___ class. Since ___, she started experiencing frequent 
intrusive thoughts - "worried about money all the time" - which 
have been interfering with her ability to sleep and to focus on 
schoolwork; she describes having difficulty going to class 
lately because of feeling "stressed". She denies any current 
financial struggles, but is worried that she won't do well in 
school and thus won't be able to earn money in the future. In 
the past several months, she has been feeling more and more 
hopeless because her depression is not improving and it will 
cause her to perform poorly in school. However, she described 
that she has been doing well in school and
that her professors have ___ giving her positive feedback. She 
described feeling guilty for missing school and wanting to 
return to school as soon as possible.  
. 
She describes that she frequently talks to her female cousin, 
who lives in ___, and who upon hearing about the patient's 
difficulties with school, suggested that she talk to a 
therapist. In ___, Ms. ___ started talking to a therapist 
online, via video chat, once per week. That is when she was 
first told that she is suffering from depression. Ms. ___ 
describes not being able to be honest and engaged in the 
therapy. She recently started seeing ___, one of the 
counselors at ___, and she has been able to open up more 
during their three sessions together. The patient says that she 
likes "live" therapy sessions more than the online ones and she 
has started building a
relationship with ___. Patient would like to continue seeing 
___ after discharge.
. 
Patient described not really having many social supports, 
because it is "difficult to trust" people, including her family. 
She also described not talking to her family in ___ about her 
life because "I don't think it's necessary". She describes 
talking to her mother and grandmother every day "to say 
goodnight", but denies talking to them about anything else.
. 
Patient endorses anhedonia, saying that she used to enjoy 
swimming, playing badminton, reading, but "now I don't know what 
I enjoy anymore". She describes that she has been feeling 
hopeless, that she is "afraid that I won't enjoy anything 
anymore" and "afraid I won't be able to graduate", which is what
was making her have suicidal thoughts. Ms. ___ denied current 
thoughts of suicide or self harm, saying that she is hoping to 
feel better and go back to school. She also described that she 
wants to continue to live in order to experience new things in 
life, such as "having a pet, working, traveling". She agreed to 
notify staff members if she experiences thoughts of 
self-harm/SI.
. 
Patient endorsed being able to fall asleep at the usual time - 
after midnight, because she usually stays up to do homework - 
and wakes up at around 8 AM if she has class. However, she said 
that her sleep is not restful anymore, and that she has been 
feeling more tired, with low energy lately. She also described 
increased difficulty with concentration, which has been making 
it difficult to focus on her schoolwork. Also endorses some 
slowing in her movements. Denies changes in appetite.
. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
-Prior diagnoses: Denies
-Hospitalizations: None
-Partial hospitalizations: None
-Psychiatrist: None
-Therapist: Counselor ___ through ___ counseling
services 
-Medication trials: None
-___ trials: None
-Suicide attempts: Denies
-Self-injurious behavior:
-Harm to others:
-Trauma: Denies any history of emotional, physical, or sexual
trauma.
-Access to weapons: Denies
. 
PAST MEDICAL HISTORY:
Denies any past medical history
Denies history of head trauma, seizure.
. 
SUBSTANCE USE HISTORY:
-Caffeine: once or twice per week, when she needs to stay up to
do schoolwork
-Tobacco: Denies
-Alcohol: Denies
-Recreational drugs: Denies
-Other Drugs: Denies

 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: once or twice per week, when she needs to stay up to
do schoolwork
-Tobacco: Denies
-Alcohol: Denies
-Recreational drugs: Denies
-Other Drugs: Denies
. 
SOCIAL HISTORY: Born and raised in ___. Came to the ___. for 
sophomore year of
high-school. describes that "my parents decided for me" because 
they believed that it would be for "my benefit" and there would 
be "less pressure" in terms of her getting into college and 
having a successful career. She went to ___ 
___ starting in ___. In ___, she began 
her
studies in ___ at  ___. She reports doing well in 
her first year of school, with the exception of failing her 
"___ class" which she is currently retaking. She reports that 
she wanted to do ___ because her aunt, uncle, and 
cousin are all ___ and she enjoys ___. Her father is 
a ___ and she was not interested in ___. Her mother 
is a ___. Patient moved to the ___. without her family. 
She described the
transition to the U.S. as "fine" and denied any challenges, 
saying that "things actually went well". Her parents and her 
siblings ___ year-old bother and ___ year-old sister) are all back 
in ___. She talks to her mother and grandmother every day to 
"say goodnight", but does not talk to them about anything else
because "I don't think it's necessary". Reports that she usually 
talks with her female cousin from ___ and with her 2 friends 
___ and ___, but does not talk about her struggles 
because it is "difficult [for her] to trust" anyone. She is not 
involved in a romantic relationship. Ms. ___ lives in the 
___ with roommate. Describes that "we get along" 
but they don't interact that much with each other.
 
-Employment/Income: None
-Spiritual: Denies
-Military History: ___
FORENSIC HISTORY:
-Arrests: Denies
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: Denies
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:

VITAL SIGNS:
T 98.2, BP 123/87, HR 85, RR 18, Spo2 97% on RA

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "The things you don't have are better than the
things you have"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: young tall Asian woman, appearing stated age, black
hair with dark brown highlights, put up in a pony tail, well
groomed, wearing hospital gown, in no apparent distress
-Behavior: Sitting in chair, looking down at her hands or the
floor, making eye contact every once in a while, with mild
psychomotor slowing
-Attitude: Calm, shy but engaged, at time hesitant about
answering certain questions and just saying "fine"
-Mood: "anxious"
-Affect: dysphoric, blunted, restricted range, smiled a few 
times
appropriately, mood-incongruent
-Speech: Some response lag, slightly slowed rate, very soft and
difficult to hear
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Limited
__________________________________

PHYSICAL EXAM ON DISCHARGE:
VS: T98.3 BP 95/58 HR 72 RR 18 O2 sat 98% RA 

Mental Status Exam:
- Appearance: well groomed
- Behavior: poor eye contact, soft spoken in ___ word answers
- Mood: 
- Affect: restricted but brighter than admission
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: denies SI/HI/AH/VH
- Judgment and Insight: fair/fair

 
Pertinent Results:
___ 08:48PM   WBC-9.0 RBC-4.40 HGB-12.4 HCT-39.4 MCV-90 
MCH-28.2 MCHC-31.5* RDW-13.3 RDWSD-44.3

___ 08:48PM   NEUTS-59.6 ___ MONOS-6.7 EOS-2.0 
BASOS-0.6 IM ___ AbsNeut-5.35 AbsLymp-2.77 AbsMono-0.60 
AbsEos-0.18 AbsBaso-0.05

___ 08:48PM   GLUCOSE-87 UREA N-9 CREAT-0.5 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-102 TOTAL CO2-27 ANION GAP-12

___ 08:48PM   TSH-1.6

___ 08:48PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

___ 09:50AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ 09:50AM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
Ms. ___ is a ___ year-old single ___ woman, ___ year student 
at ___, no formal psychiatric history, who presented to 
___ ED via EMS due to concerns for worsening depression and 
suicidal ideation. Upon interview, patient reported worsening 
depression and feelings of stress over the past 2 months in the 
setting of academic stressors and social isolation. In this 
setting, patient reported low mood, described anhedonia, 
feelings of guilt and worthlessness, decreased energy and 
suicidal ideation but without intent or plan. Denied history of 
manic symptoms, psychosis, substance or alcohol use. 
. 
Diagnostically, patient likely does meet criteria for major 
depressive disorder, single episode, severe, without psychotic 
features. Nothing in her history to suggest a history of manic 
symptoms that would be concerning for BPAD, although given young 
age, I would certainly keep this on the differential at this 
time. No history of psychotic symptoms, and although I did not 
some cognitive slowing and blunted affect during this 
hospitalization, this improved with antidepressant therapy and 
with the supportive environment of the milieu-- again, given her 
young age, I would not rule out a psychotic disorder at this 
time. Nothing in her history to suggest a history of substance 
use disorder and tox screen was negative-- substance use was 
likely not a contributor to her presentation. Finally, given her 
young age and good health, it is also unlikely that an 
underlying medical condition was contributing to her 
presentation. 
.
#. Legal/Safety: patient was admitted to Deaconess ___ on a 
___ and initially declined to sign a conditional 
voluntary form. However, she did agree to sign a conditional 
voluntary form on ___, which was accepted. She also signed 
a 3 day notice  on ___, which she later retracted during her 
hospitalization. Ms. ___ maintained her safety throughout her 
hospitalization on 15 minute checks and did not require physical 
or chemical restraints during her hospitalization. 
. 
#. MDD: severe, without psychotic features: see above
- Patient was noted to be isolative, but was compliant in 
attending some groups, where she participated appropriately 
- Initially patient was quite reserved with her treatment team, 
but gradually became more engaged and by discharge, she was 
participating appropriately in her care. After discussion of the 
risks and benefits, patient was started on Sertraline 25 mg po 
qd, which was uptitrated to 100 mg po qd by time of discharge. 
she tolerated this medication well with no complaints of side 
effects and with improvement in depressive symptoms with better 
self care (showering regularly), improvement in engagement with 
her treatment team, brighter affect, adequate appetite. Of note, 
she consistently denied suicidal ideation or thoughts of self 
harm throughout her hospitalization. In addition, her thought 
process was notably linear, logical, goal and future oriented by 
time of discharge. 
- Of note, I did consider initiating a second generation 
antipsychotic, as she was cognitively slowed on examination, for 
augmentation of the antidepressant. Ms. ___ declined this, 
stating she preferred to be on as few medications as possible. 
Of note, she consistently denied AVH, paranoia, thought 
insertion/blocking. 
- For periods of anxiety, we initiated Ativan 0.5 mg as needed, 
which she tolerated well without complication
- After significant discussion, Ms. ___ ultimately expressed 
desire to take a leave of absence from school. With some 
reluctance, she allowed her father to fly from ___ to ___ 
and participate in a family meeting. We spoke with her father to 
discuss the hospital course, diagnosis, and treatment 
recommendations, and the father understood and was very 
supportive of Ms. ___ care. I also explained that given her 
depression and recent SI, I did believe that she would be at 
elevated risk following discharge and that if he had any 
concerns, to bring her back to the hospital immediately. He 
understood this information. The plan was for the patient and 
her father to fly back to ___, where the father would find 
outpatient follow up. Due to the time difference and language 
barrier, social work was unable to provide psychiatric referrals 
in this particular case. 
. 
#. Medical: no acute medical issues during this hospitalization

 
Medications on Admission:
None
 
Discharge Medications:
1.  LORazepam 0.5 mg PO Q8H:PRN anxiety 
RX *lorazepam 0.5 mg 1 tab by mouth every eight (8) hours Disp 
#*30 Tablet Refills:*0 
2.  Sertraline 100 mg PO DAILY 
RX *sertraline 100 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depression, Single episode, Severe

 
Discharge Condition:
VS: T98.3 BP 95/58 HR 72 RR 18 O2 sat 98% RA 

Mental Status Exam:
- Appearance: well groomed
- Behavior: poor eye contact, soft spoken in ___ word answers
- Mood:  
- Affect: restricted but brighter than admission
- Thought process: linear, coherent, goal-oriented, no loose
associations
- Thought Content: denies SI/HI/AH/VH
- Judgment and Insight: fair/fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___